US05242618
0.4 mmol of bis(triphenylphosphine)palladium(II) chloride and 0.2 mmol of CuI are added at room temperature to a mixture of 0.02 m of 4-ethoxyphenylacetylene, 0.02 m of 3,4-difluoroiodobenzene and 50 ml of triethylamine. The reaction mixture is stirred at room temperature for 2 hours, diluted with 100 ml of methyl tert.-butyl ether and filtered with suction, and the solution is evaporated. Purification by chromatography and/or crystallization gives 3,4-difluoro-4'-ethoxytolan, K 67 I, Δε=11.18.

reactant | 4-ethoxyphenylacetylene | C(C)OC1=CC=C(C=C1)C#C | C10H10O
reactant | 3,4-difluoroiodobenzene | FC=1C=C(C=CC1F)I | C6H3F2I
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | methyl tert.-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.4 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.2 mmol | [Cu]I
product | 3,4-difluoro-4'-ethoxytolan | FC=1C=C(C=CC1F)C#CC1=CC=C(C=C1)OCC | C16H12F2O
